US07094801B2
2-[3E-(4-Methoxy-3-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 4-methoxy-3-(thiophen-2-yl)-benzaldehyde (Ex-41A) and 2-acetylbenzoic acid in a similar manner as described in Ex-3. Beige solid with green tint, mp 79–81° C., 44% yield. 1H-NMR (DMSO-D6) δ 8.07 (d, J=2 Hz, 1H), 7.91 (d, J=8 Hz, 1H), 7.73 (dd, J=2, 4 Hz, 1H), 7.67–7.70 (m, 2H), 7.63 (dd, J=2, 7 Hz, 1H), 7.57 (dd, J=2,5 Hz, 1H), 7.50 (d, J=8 Hz, 1H), 7.22 (d, J=2 Hz, 2H), 7.19 (d, J=8 Hz, 1H), 7.12 (dd, J=4, 5 Hz, 1H), 3.96 (s, 3H). HRMS m/z=calc. 365.0848, found 365.0853.

reactant | 4-methoxy-3-(thiophen-2-yl)-benzaldehyde | COC1=C(C=C(C=O)C=C1)C=1SC=CC1 | C12H10O2S
reactant | 2-acetylbenzoic acid | C(C)(=O)C1=C(C(=O)O)C=CC=C1 | C9H8O3
product | 2-[3E-(4-Methoxy-3-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 44% yield | COC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C(=O)O)C=CC=C1)C=1SC=CC1 | C21H16O4S
